US04113940
A mixture of 2-methyl-7-[N-(tert.-butoxycarbonyl)-2-(1,4-cyclohexadienyl)glycyl]amino-3-cephem-4-carboxylic acid (317 mg) and formic acid (3.17 ml) was stirred for 4 hours at room temperature. After the reaction was completed, formic acid was removed under reduced pressure from the reaction mixture and the residue was pulverized by adding ether. The powder was collected by filtration and dissolved in 95% acetonitrile aqueous solution (27 ml), and then the solution was stirred for an hour. Precipitates were collected by filtration and dried to give white crystals of 2-methyl-7-[2-(1,4-cyclohexadienyl)glycyl]amino-3-cephem-4-carboxylic acid (200 mg), mp 168° C. (dec.).

reactant | 2-methyl-7-[N-(tert.-butoxycarbonyl)-2-(1,4-cyclohexadienyl)glycyl]amino-3-cephem-4-carboxylic acid | 317 mg | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(NC(=O)OC(C)(C)C)C2=CCC=CC2)=O)=O | C21H27N3O6S
solvent | formic acid | 3.17 ml | C(=O)O | CH2O2
product | 2-methyl-7-[2-(1,4-cyclohexadienyl)glycyl]amino-3-cephem-4-carboxylic acid | 200 mg | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(N)C2=CCC=CC2)=O)=O | C16H19N3O4S
